US08293897B2
Step 6) N-(5-(7-((4-oxaspiro[2.4]heptane-6-yl)aminopropoxy)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide
To a solution of N-(5-(7-((N-(4-oxaspiro[2.4]heptane-6-yl)-tert butoxycarbonylamino)propoxy)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide (50 mg, 0.069 mmol) in dry THF (2 mL) was added 2 M HCl/THF (8 mmol). After stirring at room temperature for 4 hrs, 10 mL of saturated NaHCO3 aqueous solution was added to quench the reaction. The mixture was extracted with EtOAc (15 mL×2). The combined organic phases were dried over Na2SO4, concentrated in vacuo. The crude product was chromatographed with a silica gel column (5:1 (v/v) EtOAc/MeOH) to give the title compound as a white solid (30 mg, 69%).

reactant | N-(5-(7-((N-(4-oxaspiro[2.4]heptane-6-yl)-tert butoxycarbonylamino)propoxy)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 0.069 mmol, 50 mg | C1CC12OCC(C2)N(C(=O)OC(C)(C)C)CCCOC2=CC=C1C(=CC=NC1=C2)OC=2C=CC(=NC2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O | C40H44N6O7
reactant | HCl THF | 8 mmol, 2 M | Cl.C1CCOC1
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(5-(7-((4-oxaspiro[2.4]heptane-6-yl)aminopropoxy)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 30 mg, 69% | C1CC12OCC(C2)NCCCOC2=CC=C1C(=CC=NC1=C2)OC=2C=CC(=NC2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O | C35H36N6O5
